US07368453B2
Step 2. Synthesis of N-3-azetidinylmethanesulfonamide
A solution of N-[1-(diphenylmethyl)-3-azetidinyl]-methanesulfonamide (185 mg, 0.585 mmol) in MeOH (10 mL) was treated with 1 mL of 4.0 N HCl/dioxane and then reacted overnight with hydrogen gas at 50 psi. The reaction mixture was then filtered through a pad of Celite and used without further purification.

reactant | N-[1-(diphenylmethyl)-3-azetidinyl]-methanesulfonamide | 0.585 mmol, 185 mg | C1(=CC=CC=C1)C(N1CC(C1)NS(=O)(=O)C)C1=CC=CC=C1 | C17H20N2O2S
reactant | HCl dioxane | 4.0 N, 1 mL | Cl.O1CCOCC1
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
product | N-3-azetidinylmethanesulfonamide | N1CC(C1)NS(=O)(=O)C | C4H10N2O2S
